US04904675
4-Carboxy-isoquinoline [J. Amer. Chem. Soc. 67, 1268 (1945)](10 g, 0.058 mol) is refluxed in 100 ml of acetic acid containing 13 ml of hydrogen peroxide (30%) overnight. After cooling, the solution is evaporated to dryness and the residue is purified by column chromatography (ethyl acetate/methanol/formic acid 3:2:1) to yield 4-carboxy-isoquinoline N-oxide, m.p. 280°-283°, Rf =0.3.

reactant | 4-Carboxy-isoquinoline | 0.058 mol, 10 g | C(=O)(O)C1=CN=CC2=CC=CC=C12 | C10H7NO2
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 4-carboxy-isoquinoline N-oxide | C(=O)(O)C1=C[N+](=CC2=CC=CC=C12)[O-] | C10H7NO3
